US09340538B2
(Pivaloyloxy)methyl 4-((6-(2,4-dichlorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylate
To a solution of 4-(((6-(2,4-dichlorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid (0.12 g, 0.23 mmol) and TEA (0.06 g, 0.6 mmol) in DMF (6 mL) was added chloromethyl pivalate (0.12 g, 0.8 mmol). And the mixture was stirred at 60° C. for 3 hours, and cooled to 25° C. To the reaction mixture was added DCM (100 mL). The organic layer was washed with brine (80 mL×6) and dried over unhydrous Na2SO4. The crude product was purified by a silica gel column chromatography (PETROLEUM ETHER/EtOAc (V/V)=8/1) to give the title compound as yellow oil (0.09 g, 62%). The compound was characterized by the following spectroscopic data:

reactant | ((6-(2,4-dichlorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid | 0.23 mmol, 0.12 g | ClC1=C(C=CC(=C1)Cl)C1C(=C(NC(=N1)C=1SC=CN1)CN1C(COCC1)C(=O)O)C(=O)OCC | C22H22Cl2N4O5S
reactant | chloromethyl pivalate | 0.8 mmol, 0.12 g | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
reactant | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | (Pivaloyloxy)methyl 4-((6-(2,4-dichlorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylate | 0.09 g, 62% | ClC1=C(C=CC(=C1)Cl)C1C(=C(NC(=N1)C=1SC=CN1)CN1C(COCC1)C(=O)OCOC(C(C)(C)C)=O)C(=O)OCC | C28H32Cl2N4O7S
